US08580146B2
The compound (s31) (45.0 g), 1-phenyl-5-mercapto-1H-tetrazole (PTSH; 56.5 g) and triphenylphosphine (PPh3; 83.1 g) were mixed with THF (300 ml) under an atmosphere of nitrogen, and the mixture was cooled to 0° C. Diethyl azodicarboxylate (DEAD; 40%-toluene solution; 144.0 g) was added dropwise in the temperature range of 0° C. to 5° C. After the completion of the reaction had been confirmed by means of LC analysis, the reaction mixture was treated with water, and the aqueous layer was extracted with toluene. The combined organic layers were washed with water, and then dried over anhydrous magnesium sulfate. The solution was concentrated under reduced pressure, and the residue was purified by column chromatography with toluene as an eluent and silica gel as a stationary phase powder to give 1-phenyl-5-(trans-4-propylcyclohexyl methylthio)-1H-tetrazole (s32) (87.6 g). The yield based on the compound (s31) was 96.1%.

reactant | 1-phenyl-5-mercapto-1H-tetrazole | 56.5 g | C1(=CC=CC=C1)N1N=NN=C1S | C7H6N4S
reactant | triphenylphosphine | 83.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | THF | 300 ml | C1CCOC1 | C4H8O
reactant | Diethyl azodicarboxylate | 144.0 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | water | O | H2O
product | 1-phenyl-5-(trans-4-propylcyclohexyl methylthio)-1H-tetrazole | 87.6 g | C1(=CC=CC=C1)N1N=NN=C1SC[C@@H]1CC[C@H](CC1)CCC | C17H24N4S
